datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>CC[O:34][C:32]([C:21]([CH:20]([O:10][C:11]1=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
C[N:72](C)[C:61]([S-:10])=[S:62].Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N:72](C)[C:61]([S:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1)=[S:62] 10=20
"C1CC[C:20](=[O:21])CC1.C1CC[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1>>C1CC[N+:12](=[C:11]([CH2:10][C:20]2([O-:21])CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1 10,11=10,20;12=11,12;20,21=21"
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[C:74]1=[CH:73][CH:72]=[C:71]([CH-:10][C:61]#[N:62])[CH:84]=[CH:85]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74](C(F)(F)F)[CH:85]=[CH:84]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC12C3(C)C4(C)C5(C)C1(C)[Mo-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10]>>C1CC[N:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC12C3(C)C4(C)C5(C)C1(C)[Mo-2:11]2345(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20"
"C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>C[CH:10]([CH+:11][CH2:62][Si:63](C)(C)C)[Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([C:10](C)(C2=CC=CC=C2)[C:71]([C:62]2=[N+:63](C3=C(C)C=C(C)C=C3C)CC[N:66]2C2=C(C)C=C(C)C=C2C)=[O:72])[N-:21]1 10=20;20,21=21"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C1C[C:22]([O-:23])=[CH:21][CH:20]1[H:10].C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75]([O:76]C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[NH:10]CC.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CC[NH+:10](CC)[CH:20]([C:21](C)=[N:22][N:23]=[C:24](OC)[O-:25])[C:31](=[O:32])[N:33](C)C 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C)=[O:12])[N+:61]#[N:62])[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72].F[S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34]>>FC(F)(F)[S:61]([CH:10]([CH2:20][CH-:21][S:32](F)(=[O:33])=[O:34])[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].O=[N+]([O-])[C:73]1=[CH:74][CH:82]=[CH:83][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[CH:72]1>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]1=[CH:72][C:73]([N+](=O)[O-])=[CH:74][CH:82]=[CH:83]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.C[C@H]1[C@@H](C)[O:62][C@@:11](C)([H:10])[O:12]1>>C1CC[C-:21]([O:20][H:10])C1.C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1 10,11=10,20;12=11,12;20,21=21"
